US05102897
2,6-Bis(1,1-dimethylethyl)-4-[2-[5-(methylthio)-1,3,4-thiadiazol-2-yl]ethyl]phenol
Potassium hydroxide (0.22 g, 3.3 mM) is added to a 0° C. solution of 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzenepropanoic acid hydrazide (1.0 g, 3.4 mM) and carbon disulfide (0.22 mL, 7.2 mM) in methanol (36 mL). The reaction mixture is stirred at 0° C. for 2 hours then at room temperature for 4 hours. Iodomethane (0.21 mL, 3.4 mM) is added and stirring is continued overnight. The reaction is diluted with ether and washed twice with water, once with a saturated solution of sodium bicarbonate, and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives 1.2 g of crude intermediate which is dissolved in toluene (20 mL). p-Toluenesulfonic acid (0.72 g, 3.8 mM) is added to the solution and the reaction is heated at reflux for 1.5 hours. The reaction solution is cooled and filtered. The filtrate is diluted with ether and washed twice with water, once with a saturated solution of sodium bicarbonate, and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives a crude product which is chromatographed on silica gel eluting with 1:9 then 2:8 ethyl acetate:hexane yielding 0.29 g (25%) of a white solid which is 2,6-bis(1,1-dimethylethyl)-4-[2-[5-(methylthio)-1,3,4-thiadiazol-2-yl]ethyl]phenol; mp 135°-139° C.

reactant | Potassium hydroxide | 3.3 mM, 0.22 g | [OH-].[K+]
reactant | 3,5-bis(1,1-dimethylethyl)-4-hydroxybenzenepropanoic acid hydrazide | 3.4 mM, 1.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
reactant | Iodomethane | 3.4 mM, 0.21 mL | IC | CH3I
reactant | p-Toluenesulfonic acid | 3.8 mM, 0.72 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | carbon disulfide | 7.2 mM, 0.22 mL | C(=S)=S | CS2
solvent | methanol | 36 mL | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2,6-Bis(1,1-dimethylethyl)-4-[2-[5-(methylthio)-1,3,4-thiadiazol-2-yl]ethyl]phenol | CC(C)(C)C1=C(C(=CC(=C1)CCC=1SC(=NN1)SC)C(C)(C)C)O | C19H28N2OS2
